US06197348B1
Taste Masked Roxithromycin—I
Roxithromycin (30 grams) was dissolved in a solution of Eudragit RS100 (70 grams) in methylene chloride (560 grams). The solution was pumped through an atomising nozzle into a spray drier with an inlet air temperature of 55° C. The powder was collected and suspended in a 0.05M glycine buffer at pH 10 containing 1% polyvinylpyrollidone. The taste due to the roxithromycin was not detectable 5 days after preparation.

reactant | Roxithromycin | 30 grams | CC[C@@H]1[C@@]([C@@H]([C@H](/C(=N/OCOCCOC)/[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)O)(C)O)C)C)O)(C)O | C41H76N2O15
solvent | methylene chloride | 560 grams | C(Cl)Cl | CH2Cl2
product | Roxithromycin—I | CC[C@@H]1[C@@]([C@@H]([C@H](/C(=N\OCOCCOC)/[C@@H](C[C@@]([C@@H]([C@H]([C@@H]([C@H](C(=O)O1)C)O[C@H]2C[C@@]([C@H]([C@@H](O2)C)O)(C)OC)C)O[C@H]3[C@@H]([C@H](C[C@H](O3)C)N(C)C)OCOCCOC)(C)O)C)C)O)(C)O | C45H84N2O17
